US04382939
1,2,3,4-Tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
An 80% sulfuric acid solution (80 ml) is stirred and cooled to 5° C. in an ice bath and 3-methylphenol (10.8 ml, 0.10 moles) is added, followed by methyl-4-oxo-3-piperidine carboxylate hydrochloride (20.0 g, 0.10 moles). The mixture is allowed to warm gradually to room temperature. After 48 hours the solution is poured into ice water (400 ml) and stirred until a crystalline precipitate forms. Concentrated ammonium hydroxide is added until the mixture is strongly basic. After one hour the precipitate is filtered off, rinsed with concentrated ammonium hydroxide, then water, and dried. Recrystallization from acetonitrile gave the product (4.5 g), mp 128°-130° C.

reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-methylphenol | 0.10 moles, 10.8 ml | CC=1C=C(C=CC1)O | C7H8O
reactant | methyl-4-oxo-3-piperidine carboxylate hydrochloride | 0.10 moles, 20.0 g | Cl.COC(=O)C1CNCCC1=O
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1,2,3,4-Tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 4.5 g | CC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO2
